US04788206
A mixture of (E)-5,5-bis(4-chlorophenyl)-2,4-pentadienoic acid ethyl ester (7.5 g) in methanol (30 mL) and 2N sodium hydroxide solution (15 mL) was heated at reflux for 30 minutes. The crude solid obtained from the usual work up, was crystallized from ether-hexane to yield 6.55 g of (E)-5,5-bis(4-chlorophenyl)-2,4-pentadienoic acid, mp 213°-215° C. Recrystallization of a portion from 2-propanol furnished the analytical sample, mp 214°-215° C.

reactant | (E)-5,5-bis(4-chlorophenyl)-2,4-pentadienoic acid ethyl ester | 7.5 g | C(C)OC(\C=C\C=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C19H16Cl2O2
solvent | methanol | 30 mL | CO | CH4O
solvent | sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
product | (E)-5,5-bis(4-chlorophenyl)-2,4-pentadienoic acid | 6.55 g | ClC1=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)Cl | C17H12Cl2O2
